US07652015B2
1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl-3-{6-[4-(2,2-dimethyl-propionyl)-piperazin-1-yl]-pyridin-3-yl}-urea
Place 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(6-piperazin-1-yl-pyridin-3-yl)-urea (200 mg, 0.461 mmol), triethylamine (0.071 mL, 0.507 mmol), and 4-N,N-dimethylaminopyridine (6 mg, 0.051 mmol) in CH2Cl2 (10 mL). Add 2,2-dimethyl-propionyl chloride (0.062 mL, 0.507 mmol) and stir at room temperature for 17 h. Subject residue to silica gel chromatography eluting with 0-100% EtOAc:hexane to yield 175 mg (73%) of the title compound. MS(ES+): m/z=518.2 [M+H].

reactant | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(6-piperazin-1-yl-pyridin-3-yl)-urea | 0.461 mmol, 200 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=CC1)N1CCNCC1 | C24H31N7O
reactant | triethylamine | 0.507 mmol, 0.071 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-propionyl chloride | 0.507 mmol, 0.062 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl-3-{6-[4-(2,2-dimethyl-propionyl)-piperazin-1-yl]-pyridin-3-yl}-urea | 175 mg, 73% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=CC1)N1CCN(CC1)C(C(C)(C)C)=O | C29H39N7O2
